US05597845
(S)-N-Benzyl-N-methyl-2-[[(S)-2-[(1H-indol-3-yl)-1-carboxymethyl]-N"-(t-butoxycarbonyl)-ethylamino]-N'-(t-butoxycarbonyl)-ethylamino]-3-phenyl-propionamide
Combine (S)-N-Benzyl-N-methyl-2-[[(S)-2-[(1H-indol-3-yl)-1-carboxymethyl]-ethylamino]-N'-(t-butoxycarbonyl)-ethylamino]-3-phenyl-propionamide (10 mmol) and di-t-butyl dicarbonate (10 mmol) in dichloromethane (50 mL). After 24 hours, evaporate in vacuo and chromatograph on silica gel to give the title compound.

reactant | (S)-N-Benzyl-N-methyl-2-[[(S)-2-[(1H-indol-3-yl)-1-carboxymethyl]-ethylamino]-N'-(t-butoxycarbonyl)-ethylamino]-3-phenyl-propionamide | 10 mmol | C(C1=CC=CC=C1)N(C([C@H](CC1=CC=CC=C1)N(C(=O)OC(C)(C)C)CCNCC[C@H](C(=O)O)C1=CNC2=CC=CC=C12)=O)C | C36H44N4O5
reactant | di-t-butyl dicarbonate | 10 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (S)-N-Benzyl-N-methyl-2-[[(S)-2-[(1H-indol-3-yl)-1-carboxymethyl]-N"-(t-butoxycarbonyl)-ethylamino]-N'-(t-butoxycarbonyl)-ethylamino]-3-phenyl-propionamide | C(C1=CC=CC=C1)N(C([C@H](CC1=CC=CC=C1)N(C(=O)OC(C)(C)C)CCN(C(=O)OC(C)(C)C)CC[C@H](C(=O)O)C1=CNC2=CC=CC=C12)=O)C | C41H52N4O7
